Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Dyspnea, dysuria, joint pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old female with rheumatoid arthritis, off her prescribed 
meds per her discretion for the past six months, presented to 
urgent care clinic for dysuria and was found to be dyspneic
referred in to the ED, admitted for hypoxia.

She was last seen by rheum ___ at which point she had been 
on sulfasalazine and hydroxychloroquine but she did not comply 
with follow up visits and visual screening so her providers did 
not continue prescribing those meds out of concern for safety 
issues in a noncompliant patient who had not performed requisite 
lab testing and screening. Hand synovitis had been an issue for 
her. They had been avoiding MTX in th epast due to pt concerns 
about desire to get pregnant in upcoming future.

At the time of this interview she states she does not wish to 
talk about her "UTI symptoms" which are what brought her in to 
urgent care. The most I could get out of her (via handwriting on 
paper, she didn't want her roommate to overhear the discussion) 
was that she has had dysuria off and on for months, no 
hematuria, and today the pain was particularly bad so she 
presented to urgent care for this where she was told she had a 
UTI but also she endorsed ongoing dyspnea and for this the ___ 
provider referred her in to the ED.

Per pt, she has had this dyspnea to the same degree for the past 
year and it has NOT worsenend. SHe also has a stable, mild 
productive cough and stable sore throat for the past six months 
which is worse since stopping her medications she reports. She 
has had no fevers. gets intermittent left sided chest pain but 
doesn't have any at this time. Chest pain doesn't seem to be 
exertional and no obvious triggers. She denies palpitations. 

IN ED v/s with T 98.4  HR 124 -> 116, BP 140/80 RR 22 99% RA but 
later ambulating 88% on RA. Labs including trop unremarkable. 
CTA without any acute process, no PE.

On arrival to the floor she appears comfortable and denies 
dyspnea.

REVIEW OF SYSTEMS:
GENERAL: No fever, chills, night sweats, recent weight changes.
HEENT: + sore throat per HPI for months, No sores in the mouth, 
painful swallowing, intolerance to liquids or solids, sinus 
tenderness, rhinorrhea, or congestion.
CARDS: + nonspecific chest pain off and on for several months 
but no chest pressure, exertional symptoms, or palpitations at 
this time.
PULM: + cough/SOB as above but no hemoptysis, or wheezing.
GI: No nausea, vomiting, diarrhea, constipation or abdominal 
pain. No recent change in bowel habits, hematochezia, or melena.
GU: No dysuria or change in bladder habits.
MSK: + ___ ankle and knee pain bilaterally
DERM: Denies rashes, itching, or skin breakdown.
NEURO: No headache, visual changes, numbness/tingling, 
paresthesias, or focal neurologic symptoms.
PSYCH: No feelings of depression or anxiety. All other review of 
systems negative.

 
Past Medical History:
Asthma, hypertension, hidradenitis suppurativa, depression and 
GERD. Rheumatoid arthritis per HPI

 
Social History:
___
Family History:
Family history of diabetes, no other family history of RA/SLE to 
her knowledge, or anyone with arthritis
 
Physical Exam:
DISCHARGE EXAM:
VS: 97.8, 135/70, 108, 18, 99% on RA
GEN: NAD, appears more comfortable, lying in bed
HEENT: ncat anicteric MMM  
NECK:  no JVD
CV: RRR, no m/r/g  
RESP: CTA ___, no wheezes/rhonchi  
ABD: +bs, soft, NT, ND, no guarding or rebound  
EXTR: diffuse joint pain with active motion
DERM: clean, dry, no rash  
NEURO: face symmetric speech fluent but slow  
PSYCH: calm, cooperative
 
Pertinent Results:
ADMISSION LABS:

___ 02:36PM BLOOD WBC-6.2 RBC-4.06 Hgb-9.8* Hct-35.3 MCV-87 
MCH-24.1*# MCHC-27.8*# RDW-24.7* RDWSD-65.0* Plt ___
___ 02:36PM BLOOD Calcium-9.3 Phos-3.9 Mg-1.8
___ 05:55AM BLOOD CRP-87.4*
___ 02:36PM BLOOD D-Dimer-3939*
___ 05:55AM BLOOD Cortsol-11.9
___ 06:14AM BLOOD TSH-2.5

OTHER LABS:
Test                          Result              Reference 
Range/Units
SJOGREN'S ANTIBODY (SS-A)     >8.0 POS  A         <1.0 NEG AI
SJOGREN'S ANTIBODY (SS-B)     4.0 POS  A          <1.0 NEG AI

dsDNA - negative
ant-Scl - negative

REPORTS:
ECHO:

The left atrium is normal in size. No atrial septal defect or 
patent foramen ovale is seen by 2D, color Doppler or saline 
contrast with maneuvers. Left ventricular wall thickness, cavity 
size and regional/global systolic function are normal (LVEF 
>55%). The estimated cardiac index is high (>4.0L/min/m2). Right 
ventricular chamber size and free wall motion are normal. The 
diameters of aorta at the sinus, ascending and arch levels are 
normal. The aortic valve leaflets (3) appear structurally normal 
with good leaflet excursion and no aortic stenosis or aortic 
regurgitation. The mitral valve leaflets are structurally 
normal. There is no mitral valve prolapse. No mitral 
regurgitation is seen. The estimated pulmonary artery systolic 
pressure is normal (even with aggitated saline there was at most 
physiologic tricuspid regurgitation and the highest measured 
pressures were 8mmHg so along with a normal right ventricle, no 
notching of the pulmonary artery outflow and minimal tricuspid 
regurgitation, it is highly unlikley that there is pulmonary 
hypertension present sufficient to cause hypoxia). There is no 
pericardial effusion.  

MRI Brain:
1. Three scattered foci of T2/FLAIR hyperintensity in the 
periventricular white matter.  These are nonspecific and less 
likely secondary to demyelinating disorder given the absence of 
classic distribution.  The possible other differential diagnosis 
includes headaches, hypertension, infectious/inflammatory 
etiologies.  None of the lesions demonstrate enhancement on 
postcontrast images or slow diffusion.  No lesions are seen in 
the infratentorial brain.
2. Unremarkable MRI of the orbits without any edema or 
enhancement of the optic nerves.
3. Chiari 1 malformation with tonsils projecting 6mm below the 
foramen of magnum.

CTA Chest:
No pulmonary embolism or other acute process in the chest.
 
Brief Hospital Course:
___ year old female with history of RA noncompliant with meds or 
follow up presents for eval of chronic dyspnea noted to be 
hypoxic to 88% on RA (now resolved) after presenting to urgent 
care not for dyspnea but for dysuria, found to have normal UA.

# Rheumatoid Arthritis flare:
Seropositive (positive rheumatoid factor, positive CCP, positive 
___ with history of seropositive nonerosive rheumatoid 
arthritis. Patient's symptoms had been reasonably well 
controlled last year, however then she became noncompliant with 
follow up. She reported only taking vitamins and supplements to 
try to control her symptoms. No longer taking her 
plaquenil/sulfasalazine. Her labs were notable for positive 
anti-Ro/anti-La, likely from her RA as she does not have other 
symptoms of Sjogren's. Given her issues with follow up 
rheumatology did not suggest starting any chronic DMARDs while 
inpatient. She was started on prednisone 15mg BID per 
rheumatology recs, with some improvement in her joint pain. She 
was also continued on PRN naproxen. She was seen by ___ who 
recommended that she be discharged home with home ___. She will 
follow up with rheumatology on ___ to determine if she will 
start a DMARD. Until then she will continue prednisone.

# Dyspnea on exertion/weakness:  
No hypoxia at rest or with exertion. Patient denies subjective 
dyspnea at rest, but reports dyspnea with exertion. No evidnece 
of PE, PNA, pulmonary edema on chest CT. Dyspnea is not 
worsening per patient over the past year. Her EKG was reassuring 
other than sinus tach and trop negative. Given normal ambulatory 
sat, suspect that patient is having subjective dyspnea secondary 
to severe joint pain and deconditioning. 

# Chiari malformation, type 1:
MRI ordered due to history of vision changes and subacute 
weakness. MRI shows type 1 Chiari malformation, as well as 
T2/FLAIR hyperintensities in the periventricular white matter 
which are
non-specific. Discussed with neurology who agrees that findings 
are not consistent with MS. ___ on initial conversation they 
also feel that current symptoms are very unlikely to be due to 
Chiari
malformation and would recommend treatment of RA flare prior to 
considering treatment for Chiari malformation. She will need 
repeat head imaging as an outpatient after her RA has been 
adequately treated.

# Dysuria:
Patient initially reported dysuria at urgent care, though this 
was resolved by the time of admission. UA was not suggestive of 
UTI. Urine cx negative, no treatment indicated.

# Fever: 
One isolated fever to 101.1. No localizing symptoms. Unclear 
etiology. Sent blood cultures which remained negative. It is 
possible that fever was related to her RA. She remained afebrile 
throughout the admission.

TRANSITIONAL ISSUES:
[ ] Labs notable for positive anti-Ro/anti-La that resulted 
after discharge. Consider further evaluation for Sjogren's if 
rheumatology feels it is indicated.
[ ] Discharged with prednisone. Will need to transition to ___ 
if she is able to remain compliant with medications and 
appointments.
[ ] Patient had eosinophilia that is actually improved from 
prior studies. Please check CBC w/ diff at future outpatient 
appointment and consider further outpatient evaluation.
[ ] Patient denied feeling depressed, though her mood and affect 
throughout the admission suggested otherwise. Would consider 
further discussion about this with patient and possible referral 
to psychiatry.

TIME SPENT:
>60 minutes on patient counseling and discharge planning
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1. PredniSONE 15 mg PO BID 
RX *prednisone 5 mg 3 tablet(s) by mouth twice a day Disp #*72 
Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Rheumatoid arthritis flare

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital because of severe joint pain, 
as well as low oxygen levels. This was likely due to a flare of 
your rheumatoid arthritis. You were seen by the rheumatologists, 
who recommended starting prednisone (a steroid). There are also 
several blood tests that are pending and will be followed up by 
your rheumatologist.

Sincerely,
Your ___ Team
 
Followup Instructions:
___